US09126969B2
1 mL of trifluoroacetic acid and 100 μL of water are added to a solution of 290 mg of N-[3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]piperidine-1-carboxamide in solution in 3 mL of dichloromethane. The reaction medium is stirred at 22° C. for 24 hours. The reaction medium is concentrated under vacuum in a rotary evaporator. 0.5 mL of dichloromethane, 0.5 mL of trifluoroacetic acid and 100 μL of water are added. The reaction medium is stirred at 22° C. for 4 hours. After evaporation, the reaction crude is purified by flash chromatography on an Intelliflash apparatus on an Analogix RS-12 cartridge. The elution is carried out in dichloromethane containing 15% of methanol. 40 mg of N-{3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}piperidine-1-carboxamide are isolated. 123 mg of N-[3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]piperidine-1-carboxamide are isolated and reacted again with 2.8 mL of TFA and 700 μL of water. The reaction medium is stirred at 22° C. for 72 hours. After evaporation, the reaction crude is purified by flash chromatography on an Intelliflash apparatus on an Analogix RS-12 cartridge. The elution is carried out in dichloromethane containing 15% of methanol. 37 mg of N-{3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}piperidine-1-carboxamide are isolated. That is to say, 77 mg of N-{3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}piperidine-1-carboxamide are isolated in total. 1H NMR (400 MHz, DMSO-d6, δ in ppm): 1.43 to 1.63 (m, 6H); 2.90 (s, 3H); 3.05 (m, 2H); 3.22 (m, 2H); 3.43 (m, 4H); 3.58 (m, 2H); 3.89 (m, 2H); 7.17 (broad s, 1H); 7.31 (broad d, J=9.0 Hz, 1H); 7.65 (d, J=9.0 Hz, 1H); 8.02 (s, 1H).

reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 100 μL | O | H2O
reactant | N-[3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]piperidine-1-carboxamide | 290 mg | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NN(C=C2NC(=O)N2CCCCC2)C2OCCCC2)C1 | C26H36N8O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-{3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}piperidine-1-carboxamide | 40 mg | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NNC=C2NC(=O)N2CCCCC2)C1 | C21H28N8O
